US07700595B2
1,2-Diphenylethane-1,2-dione [2-(trifluoromethyl)phenyl]hydrazone was prepared from 2-trifluoromethylphenyl hydrazine and 1,2-diphenyl-ethane-1,2-dione according to the procedure of Step 1 Example 2. MS (ESI) m/z 369; MS (ESI) m/z 367;

reactant | 2-trifluoromethylphenyl hydrazine | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
reactant | 1,2-diphenyl-ethane-1,2-dione | C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=O | C14H10O2
product | 1,2-Diphenylethane-1,2-dione [2-(trifluoromethyl)phenyl]hydrazone | FC(C1=C(C=CC=C1)NN=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C21H15F3N2O
